US06420426B1
A suspension of 4-fluoro-2-hydroxy-benzoic acid (15 g, 96.1 mmol) in heptane (190 mL) was treated with thionyl chloride (21 mL, 288 mmol) in a dropwise manner over 30 min. A drop of N,N-dimethylformamide was added and the solution was heated for 4 h at 60° C. The excess thionyl chloride was distilled off under reduced pressure. The remaining solution was cooled to room temperature, filtered, and concentrated to give 4-fluoro-2-hydroxy-benzoyl chloride as a pale yellow crystalline solid (14.2 g, 85%).

reactant | 4-fluoro-2-hydroxy-benzoic acid | 96.1 mmol, 15 g | FC1=CC(=C(C(=O)O)C=C1)O | C7H5FO3
reactant | thionyl chloride | 288 mmol, 21 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | heptane | 190 mL | CCCCCCC | C7H16
product | 4-fluoro-2-hydroxy-benzoyl chloride | 14.2 g, 85% | FC1=CC(=C(C(=O)Cl)C=C1)O | C7H4ClFO2
